data/oMe_Silver.jsonl
{"reaction_id": "NR-143_1-c1ccccc1_2-C_3-C(C)CC","name": "Meyer-Schuster Rearrangement","level": "medium","reactants_smiles": ["C(C#Cc1ccccc1)(O)(C)(C(C)CC)"],"products_smiles": ["C(=O)(c1ccccc1)C=C(C)(C(C)CC)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH2+])(C#Cc1ccccc1)(C)(C(C)CC)","rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, favored under acidic conditions due to enhanced electrophilicity at the adjacent carbon."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C+](C#Cc1ccccc1)(C)(C(C)CC)","rationale": "Loss of water generates a carbocation stabilized by adjacent propargyl resonance, making elimination favorable despite potential steric effects from C and C(C)CC."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(O)(c1ccccc1)=C=C(C)(C(C)CC)","rationale": "Nucleophilic attack of water on the electrophilic carbocation occurs, driven by carbocation stability and the ability to form an enol intermediate conjugated with the alkyne."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(c1ccccc1)C=C(C)(C(C)CC)","rationale": "Proton transfer tautomerizes the enol to the more thermodynamically stable α,β-unsaturated carbonyl, favored by conjugation between the C=O and C=C."}],"description": "Under acidic conditions, the propargyl alcohol undergoes protonation to activate the hydroxyl group, followed by water loss to form a stabilized carbocation. Nucleophilic addition and proton transfers rearrange the triple bond into an α,β-unsaturated carbonyl via the Meyer–Schuster pathway."}
{"reaction_id": "NR-116_1-c1ccccc1_2-CC_3-C_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(c1ccccc1)C(CC)C(=O)OC","N#[N+]CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2"],"products_smiles": ["C(=O)(OC)C(=N[NH]CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CC"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OC)CC)c1ccccc1","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OC)(C(=O)c1ccccc1)(N=NCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CC","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC)(C(O)([O-])(c1ccccc1))(N=NCC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CC","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OC)C(=N[N-]CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CC","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OC)C(=N[NH]CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)CC","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
